US04356185
4-(4-Chlorophenyl)-2-(4-acetoxyphenyl)thiazole-5-acetic acid
In a similar manner to Example 1(a), 3-Bromo-3-(4-chlorobenzyl)propionic acid and 4-acetoxy-thiobenzamide are reacted in dimethylformamide solvent to give the title compound.

reactant | 3-Bromo-3-(4-chlorobenzyl)propionic acid | BrC(CC(=O)O)CC1=CC=C(C=C1)Cl | C10H10BrClO2
reactant | 4-acetoxy-thiobenzamide | C(C)(=O)OC1=CC=C(C(=S)N)C=C1 | C9H9NO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Chlorophenyl)-2-(4-acetoxyphenyl)thiazole-5-acetic acid | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)OC(C)=O | C19H14ClNO4S
